US08497275B2
Part A. Preparation of 4-oxo-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester
To a solution of BOC glycine methyl ester (J. Med. Chem. 2001, 44, 8, 1192-1201) (19.2 g, 101.5 mmol) in THF at 0° C. was added dropwise ethyl acrylate (11 mL, 101.5 mmol) over 10 minutes. The solution was stirred for 20 minutes, then KOtBu (111.65 mL, 111.65 mmol) was added over 45 minutes. The solution was allowed to warm to 25° C. overnight. The resulting solution concentrated in vacuo and portioned between ethyl acetate and water containing 5 mL of acetic acid. The ethyl acetate layer was removed and aqueous layer extracted with 2×200 mL of ethyl acetate. The combined ethyl acetate layers were washed with brine, dried over MgSO4, filtered and concentrated in vacuo to afford an oil. MS (DCI/NH4) m/z=258 (M+H)+, 275 (M+NH4)+.

reactant | BOC glycine methyl ester | 101.5 mmol, 19.2 g | COC(CNC(=O)OC(C)(C)C)=O | C8H15NO4
reactant | ethyl acrylate | 101.5 mmol, 11 mL | C(C=C)(=O)OCC | C5H8O2
reactant | KOtBu | 111.65 mmol, 111.65 mL | CC(C)(C)[O-].[K+]
solvent | THF | C1CCOC1 | C4H8O
product | 4-oxo-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | C(C)OC(=O)C1CN(CC1=O)C(=O)OC(C)(C)C | C12H19NO5
